US05072451
1.16 g (7.73 mmol) of piperonal and 1.00 g (7.75 mmol) of N-ethyl-2,4-oxazolidinedione are introduced into a 50 ml of eggplant-shaped flask, and a spiral condenser and a drying tube are mounted thereon. The reaction vessel is internally charged with an atmosphere of nitrogen and about 10 ml of THF dried with molecular sieve is added, followed by dissolution by stirring with a magnetic stirrer. After dissolution, 0.36 g (9.0 mmol) of NaH (60 wt. %, oily) is added little by little under stirring with magnetic stirrer. After stirring at room temperature for 2 hours, the reaction mixture is poured into water. The oily substance formed is extracted with ethyl acetate, and after drying over magnesium sulfate, the solvent is removed under reduced pressure, followed by recrystallization from methanol to give 0.34 g (1.3 mmol) of N-ethyl-5-(3,4-methylenedioxy-benzylidene)-2,4-oxazolidinedione at a yield of 17 % (m.p.=135°-137 ° C.).

reactant | piperonal | 7.73 mmol, 1.16 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | N-ethyl-2,4-oxazolidinedione | 7.75 mmol, 1.00 g | C(C)N1C(OCC1=O)=O | C5H7NO3
reactant | THF | about 10 ml | C1CCOC1 | C4H8O
reactant | NaH | 9.0 mmol, 0.36 g | [H-].[Na+]
solvent | water | O | H2O
product | N-ethyl-5-(3,4-methylenedioxy-benzylidene)-2,4-oxazolidinedione | 1.3 mmol, 0.34 g, yield of 17 % | C(C)N1C(OC(C1=O)=CC1=CC2=C(C=C1)OCO2)=O | C13H11NO5
